US08193199B2
Prepared according to Procedure A using 2-chloro-8-methylquinoline-3-carbaldehyde (2.0 g, 9.73 mmol), 2-(trifluoromethyl)phenylboronic acid (2.032 g, 10.7 mmol, 1.1 eq), tetrakis(triphenylphosphine)palladium (562 mg, 5% mmol), and sodium carbonate (5.15 g, 48.6 mol, 5 eq) in MeCN (75 mL) and water (25 mL). After purification, 8-methyl-2-(2-(trifluoromethyl)phenyl)quinoline-3-carbaldehyde was obtained as a white solid. 1H NMR (DMSO-d6) δ ppm 9.93 (1H, s), 9.04 (1H, s), 8.13 (1H, d, J=8.1 Hz), 7.93 (1H, d, J=7.3 Hz), 7.85 (1H, d, J=7.1 Hz), 7.72-7.82 (2H, m), 7.64-7.71 (1H, m), 7.59 (1H, d, J=7.3 Hz), 2.67 (3H, s). Mass Spectrum (ESI) m/e=316.1 (M+1).

reactant | 2-chloro-8-methylquinoline-3-carbaldehyde | 9.73 mmol, 2.0 g | ClC1=NC2=C(C=CC=C2C=C1C=O)C | C11H8ClNO
reactant | 2-(trifluoromethyl)phenylboronic acid | 10.7 mmol, 2.032 g, 1.1 eq | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 48.6 mol, 5.15 g, 5 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | MeCN | 75 mL | CC#N | C2H3N
solvent | water | 25 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 562 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-methyl-2-(2-(trifluoromethyl)phenyl)quinoline-3-carbaldehyde | CC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)C(F)(F)F)C=O | C18H12F3NO
